Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, dizziness
 
Major Surgical or Invasive Procedure:
None during this admission.

 
History of Present Illness:
___ w/hx of HTN, HLD, anemia who presents with 3 weeks of 
"dizziness" with intermittent HA. Pt reports this happening 
suddenly, and that it is worse with changing positions (lying to 
sitting, sitting to standing). Also endorses feeling lightheaded 
but states the room is not spinning. Reports a HA on the left 
side for 2 days but not today. He also notes feeling week in 
arms and legs. There is no recent trauma or neck pain, however 
he reports some nausea and some gait imbalance/wobbling. No 
numbness or tingling. No fevers, chills, CP, SOB, abdominal 
pain, diarrhea, urinary symptoms. Not on blood thinners. Got 
TDAP 1 month ago for a laceration. Takes Losartan, HCTZ, 
beta-blocker.

Labs were drawn and largely normal with exception of Cr 2.2 and 
H/H 11.2/33.9. Head CT was normal. Has ___ to 2.2 up from 1.7 
baseline, and patient has no knowledge of prior renal disease.

In the ED, initial vitals were: 97.1 123/88 60 16 100RA
Exam notable for cranial nerves intact, atraumatic head, some 
tenderness in the left posterior part of the neck without 
midline tenderness of neck. Full ROM. ___ strength bilaterally. 
No sensory deficits. 2+ patellar reflexes bilaterally. Negative 
___ maneuver - no nystagmus.
Labs notable for: BMP WNL except for BUN2.2; CBC WNL except 
H/H=11.2/___.9 PLT168
Imaging notable for CT Head w/o contrast: IMPRESSION: 1. No 
acute intracranial process. Specifically, no intracranial 
hemorrhage or
large mass 2. Of note MR is more sensitive detection of subtle 
mass lesions
Patient was given APAP PO 1000mg, 2L IV NS
Patient was seen by neurology who recommended consult not needed 
in ED, but if further concern for primary team to re-consult
Decision was made to admit for ___ with Cr 2.2 from baseline of 
1.7
Vitals notable for: 97.1 151/102 60 18 99RA
 
On the floor, the patient confirms his previous history of ___ 
weeks of headaches and lightheadedness/dizziness with changes in 
position, especially with rising from bed or seated position. He 
also reports ringing in his ears when having the headaches and 
lightheadedness. He has had decreased fluid intake orally for 
the past several weeks, and has been walking every morning and 
evening. He has some chills and occasional night sweats but no 
cough or weight loss.
 
Review of systems:  
(+) Per HPI  
(-) Denies fever or recent weight loss. Denies sinus tenderness, 
rhinorrhea, or congestion. Denies cough, shortness of breath. 
Denies chest pain or tightness, palpitations. Denies nausea, 
vomiting, diarrhea, constipation or abdominal pain. No recent 
change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias.
 
Past Medical History:
-hypertension
-hyperlipidemia
-anxiety
-insomnia
-GERD
 
Social History:
___
Family History:
Father died form alcohol complications. Other family members 
with palpitations. No h/o sudden cardiac death.
 
Physical Exam:
ADMISSION EXAM:
VS: 97.7 144/99 60 18 100RA 
GEN: NAD, lying and sitting in bed in no apparent distress
HEENT: AT/NC; anicteric sclera, EOMI, PERRL; no LAD, throat 
supple
CV: RRR, (+)S1/S2, no M/R/G
PULM: CTAB, no W/R/R
ABD: S/NT/ND, (+)BS, no organomegaly
GU: no Foley
EXT: NT, nonedematous
SKIN: multiple scars ___ stab wounds ___ prior to admission
NEURO: A/Ox3, motor and sensory exams, including cerebellar and 
gait, tested and ___ globally; CNII-XII intact
PSYCH: normal mood/affect

DISCHARGE EXAM:
VS: 98.6 138/90 59 18 100RA - orthostatics performed and normal
GEN: NAD, lying and sitting in bed in no apparent distress
HEENT: AT/NC; anicteric sclera, EOMI, PERRL; no LAD, throat 
supple
CV: RRR, (+)S1/S2, no M/R/G
PULM: CTAB, no W/R/R
ABD: S/NT/ND, (+)BS, no organomegaly
GU: no Foley
EXT: NT, nonedematous
SKIN: multiple scars ___ stab wounds ___ prior to admission
NEURO: A/Ox3, motor and sensory exams, including cerebellar and 
gait, tested and ___ globally; CNII-XII intact
PSYCH: normal mood/affect
 
Pertinent Results:
ADMISSION LABS:
___ 03:18PM BLOOD WBC-5.7 RBC-3.49* Hgb-11.2* Hct-33.9* 
MCV-97 MCH-32.1* MCHC-33.0 RDW-12.5 RDWSD-43.9 Plt ___
___ 03:18PM BLOOD Neuts-61.7 ___ Monos-8.0 Eos-4.6 
Baso-1.1* Im ___ AbsNeut-3.49 AbsLymp-1.37 AbsMono-0.45 
AbsEos-0.26 AbsBaso-0.06
___ 03:18PM BLOOD Glucose-102* UreaN-17 Creat-2.2* Na-137 
K-5.1 Cl-103 HCO3-24 AnGap-15
___ 04:28PM URINE Color-Straw Appear-Clear Sp ___
___ 04:28PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG

DISCHARGE LABS:
___ 06:38AM BLOOD WBC-5.2 RBC-3.28* Hgb-10.5* Hct-32.2* 
MCV-98 MCH-32.0 MCHC-32.6 RDW-12.3 RDWSD-44.2 Plt ___
___ 06:38AM BLOOD Glucose-87 UreaN-13 Creat-1.8* Na-141 
K-4.3 Cl-107 HCO3-23 AnGap-15
___ 06:38AM BLOOD Calcium-8.9 Phos-3.2 Mg-1.4*

MICRO:
___ BCx (x2): NG final

STUDIES:
___ EKG:
Sinus rhythm with normal intervals and no diagnostic 
abnormalities. No previous tracing available for comparison.  

IMAGING:
___ CT Head w/o Contrast:
IMPRESSION:  
No acute intracranial process.  Specifically, no intracranial 
hemorrhage or large mass. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with history of HTN, HLD, and 
normocytic anemia who presented with 3 weeks dizziness and 
intermittent headache who was also found to have ___ with Cr 2.2 
up from baseline of Cr 1.7. In the ED the patient was given IV 
fluids and had a head CT which was normal. On the floor he was 
encouraged to take copious PO fluids. By the AM of the day after 
admission, the patient was feeling significantly improved, with 
no complaints of positional dizziness. Similarly, his Cr 
improved to his baseline. He was encouraged to continue to keep 
drinking fluids, especially when walking outside. He will be 
seen by his PCP as an outpatient for labs and to follow up on 
his elevated baseline Cr.

ACTIVE ISSUES:
___ in CKD: B/L Cr 1.7 (Stage 3 CKD), found to have Cr 2.2 in 
the ED. Unclear etiology of chronic kidney disease The patient 
endorses increased activity with reduced PO intake over the 
preceding several weeks. No complaints of obstruction or new 
medications which may precipitate intrinsic kidney injury. Was 
given 2L IVF in the ED and admitted for monitoring of renal 
function. Markedly improved day after admission with Cr 
improvement to baseline. Discharged with instruction to increase 
fluids especially when walking outside in heat. Will f/u with 
PCP.
 
#Dizziness/lightheadedness: Patient experiencing sensation of 
room spinning around him accompanied by headache when rising 
from lying or seated position to standing. Received 2L IVF in ED 
and encouraging PO intake. The patient continued to complain of 
lightheadedness with orthostatics ___ AM but BPs did not change 
positionally. Markedly improved with IVF, discharged with 
instruction to increase PO fluids when walking outside when hot.

#Mouth/throat nodularity: The patient complains of some ongoing 
mouth blistering and throat gland swelling that he reports 
having had a laryngoscopy done for. Unclear history and exam 
findings, considered workup but problem was not bother patient 
at time of discharge.
 
CHRONIC ISSUES: 
#HTN: Held home medications in setting of likely prerenal ___. 
Resumed Losartan, HCTZ upon discharge.

#HLD: On no medications at home. Consider statin to be initiated 
as outpatient.

#Normocytic anemia: Patient with stable anemia and MCV 97. 
Currently asymptomatic without tachycardia or tachypnea. Can 
consider iron studies or more likely work up as outpatient.

#Generalized anxiety disorder: Continued home propranolol.

TRANSITIONAL ISSUES:
[ ]Please recheck BP and chem-7 at PCP appointment on ___.
[ ]Antihypertensives were held in setting ___ and 
dehydration, and patient was discharged without restarting these 
medications: consider restarting or altering regimen as 
outpatient. Patient to have f/u PCP ___ ___.
[ ]Should be worked up for baseline Cr 1.7-1.8 (Stage III CKD) 
as outpatient
#CODE: Full
#CONTACT: Mother ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Propranolol 40 mg PO BID 
3. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Propranolol 40 mg PO BID  
2. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until you follow up 
with your primary care doctor on ___
3. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until you follow up with 
your primary care doctor on ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
-acute kidney injury
-dehydration

Secondary diagnosis:
-hypertension
-hyperlipidemia
-normocytic anemia
-generalized anxiety disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you for allowing us to care for you while here at ___.

Why was I admitted to the hospital?
-You were feeling dizzy and lightheaded, and had blood tests 
that indicated your kidneys were not working properly. We found 
that your dizziness was due to dehydration.

What was done for me in the hospital?
-You were given intravenous fluids to treat your kidney injury 
and dehydration
-You were given Tylenol for your headache
-You were given magnesium through intravenous line to increase 
your blood levels

What should I do for the next few days?
-Continue to drink plenty of water, especially when walking 
outside
-Do not take your blood pressure medications until restarted by 
your doctor ___ and losartan).

It was a pleasure to take care of you while you were here.

Best Regards,
Your ___ Care Team
 
Followup Instructions:
___